2153-10-10 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mental status changes, tremor and renal failure
   24 Hour Events:
 ARTERIAL LINE - START [**2153-10-9**] 05:00 PM
 NUCLEAR MEDICINE - At [**2153-10-9**] 06:00 PM
 ULTRASOUND - At [**2153-10-9**] 09:00 PM renal and lenis
   - wet-read of V/Q scan shows RLL defect that matches CXR, making final
   read "indeterminate".
   - RV normal, "Mild concentric hypertrophy with small left ventricular
   cavity size and hyperdynamic function"
   - LENI wetread negative, kidney U/S wetread w/o hydronephrosis or
   stone.
   - A-line placed
   - toxicology attending: gabapentin toxicity can cause delirium and
   tremor.  Stop gabapentin.  He can arrange for blood level test if we
   would like.
   Allergies:
   Amlodipine
   edema;
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-9**] 10:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2153-10-10**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 85 (72 - 88) bpm
   BP: 127/48(79) {84/30(50) - 127/62(79)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,184 mL
                                                                    208 mL
   PO:
                                                                    250 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,934 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    490 mL
   Urine:
                                                                    210 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,609 mL
                                                                   -282 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Initially confused when awoken, thinking she is in rehab, but later
   alert and oriented x3 but mildly confused.  Her tremor is improved
   though still present.  Heart sounds regular.  Lungs clear, w/ pain on
   deep inspiration.  Abdomen, soft, NTND.  No edema or calf pain.
   Labs / Radiology
   393 K/uL
   9.0 g/dL
   70 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   33 mg/dL
   105 mEq/L
   137 mEq/L
   26.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2153-10-9**]  12:27 PM
   WBC
   8.8
   Hct
   26.7
   Plt
   393
   Cr
   2.5
   TropT
   0.06
   Glucose
   95
   Other labs: PT / PTT / INR:12.8/44.1/1.1, CK / CKMB /
   Troponin-T:277/9/0.06, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: UA: few bacteria, 3-5 WBCs, hyaline casts.
   Imaging: [**10-9**] CXR: Right lower lobe pneumonia.
   [**10-9**] renal u/s: no hydro or stone.
   [**10-9**] LENIs: negative
   [**10-9**] V/Q scan: undeterminate
   [**10-9**] Echo: RV normal, hyperdynamic LV, symmetric hypertrophy
   Microbiology: [**10-9**] flu swab negative
   [**10-9**] urine cx pending
   [**10-9**] blood cx pending
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old lady with hypotension and radiographic evidence of
   pneumonia now two days out from rehab after a CABG. She is comfortable
   at this time.
   1. Hypotension: Has not required pressors.  Etiology is likely
   hypovolemia vs sepsis from pneumonia.  Hypovolemia seems most likely at
   this time.  I am reassured that she does not have a PE based on
   indeterminate V/Q scan, negative echo and negative LENI
s, so we can
   stop the heparin.  While ideally we would to a CTA chest, her impaired
   renal function makes that risky.  She appears euvolemic now and
   presumably remains below her baseline blood pressure (on metoprolol and
   lisinopril at home), which may still be due to infection.  However her
   urine output and creatinine have improved, which is reassuring.  We
   will monitor closely through the day.
   - stop heprin
   - continue antibiotics for pneumonia as below
   - Try to correlate non-invasive BPs with arterial line.  If she can be
   monitored with cuff she can have the a-line out and go to the floor.
   - Hold metoprolol and lisinopril.
   2. (HC vs. Hospital Acquired) Pneumonia: The patient has radiographic
   evidence of a RLL PNA, HAP versus HCAP given history with associated
   left sided pleuritic pain.  She denies cough or fever.  We can treat
   with a seven-day course of antibiotics.  We will try to an induced
   sputum to obtain cultures to narrow coverage.
   - Vanc/Cefepime/Cipro for 7 day course.  Hopefully we can narrow based
   on sputum culture.  She has been MRSA positive in the past, so she will
   likely need vanco for all 7 days unless we can grow an organism.
   3. Delirium with tremulousness: The patient has developed waxing and
   [**Doctor Last Name 533**] mental status in the past 24 hours per family report.  She has
   also developed new tremor at this time.  Toxicology attending agrees
   that picture could be due to neurontin toxicity, and her improved exam
   today would support that.
   - Talk to family today about whether she is approaching her baseline.
   - PT consult to assess risk for falls
   - Hold compazine and neurontin
   4. Acute on Chronic Renal failure: Creatinine improved this morning to
   1.7 from 2.8 on admission.  FENa calculated at 0.2%, supporting simple
   prerenal etiology and not ATN.  We will continue to trend towards
   baseline, with further work-up held unless she does not improve.
   - Euvolemic now, should be able to self-regulate with PO intake.
   - Trend Cr
   - Continue to renally dose meds
   - Hold Lisinopril and Lasix.  [**Month (only) 51**] require reduced lasix dose on
   discharge.
   5. Anemia: Patient is stably anemic with fluid resuscitation, making
   hemoconcentration unlikely. Guaiac negative, no signs of bleeding or
   hemolysis given normal LFTs. Retic count is depressed.  B12 and folate
   normal.  Iron studies suggest anemia of chronic disease.  No further
   work-up at this time.
   - daily Hct while in hospital with transfusion for Hct<21.
   6. s/p CABG: Complicated by postop atrial fibrillation, currently in
   Sinus. QTc 438.  Elevated Troponin difficult to interpret given renal
   failure; CK elevated from hemolysis
   - Repeat Troponin
   - Hold Amiodarone given hypotension
   - Appreciate CSurg wound care recs
   - Continue ASA, Statin
   8. Arthritis: Patient with chronic pain
   - Tylenol PRN add Tramadol PRN if pain not well controlled
   9. GERD: Continue Omeprazole
   10. Glaucoma: Continue Latanoprost
   FEN: No further IVF, replete lytes PRN, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals and a-line.  A-line can be pulled if cuff pressures
   correlate.
   Code:  Full (discussed with patient)
   Communication: Patient & Daughter [**Known firstname **] [**Last Name (NamePattern1) 1936**] ([**Telephone/Fax (1) 11582**])
   Disposition: To floor today early if cuff pressures correlate, later in
   day if pressures are stable.

2153-10-10 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mental status changes, tremor and renal failure
   24 Hour Events:
 ARTERIAL LINE - START [**2153-10-9**] 05:00 PM
 NUCLEAR MEDICINE - At [**2153-10-9**] 06:00 PM
 ULTRASOUND - At [**2153-10-9**] 09:00 PM renal and lenis
   Allergies:
   Amlodipine
   edema;
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-9**] 10:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2153-10-10**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 85 (72 - 88) bpm
   BP: 127/48(79) {84/30(50) - 127/62(79)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,184 mL
                                                                    208 mL
   PO:
                                                                    250 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,934 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    490 mL
   Urine:
                                                                    210 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,609 mL
                                                                   -282 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   393 K/uL
   9.0 g/dL
   95 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   41 mg/dL
   99 mEq/L
   133 mEq/L
   26.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2153-10-9**]  12:27 PM
   WBC
   8.8
   Hct
   26.7
   Plt
   393
   Cr
   2.5
   TropT
   0.06
   Glucose
   95
   Other labs: PT / PTT / INR:12.8/44.1/1.1, CK / CKMB /
   Troponin-T:277/9/0.06, Ca++:7.8 mg/dL, Mg++:2.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: UA: few bacteria, 3-5 WBCs, hyaline casts.
   Imaging: [**10-9**] CXR: Right lower lobe pneumonia.
   [**10-9**] renal u/s: no hydro or stone.
   [**10-9**] LENIs: negative
   [**10-9**] V/Q scan: undeterminate
   [**10-9**] Echo: RV normal
   Microbiology: [**10-9**] flu swab negative
   [**10-9**] urine cx pending
   [**10-9**] blood cx pending
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old lady with hypotension and radiographic evidence of
   pneumonia now two days out from rehab after a CABG. She is comfortable
   at this time.
   1. Hypotension: Has not required pressors.  Most likely source seems to
   be hypovolemia.
   - stop heprin
   - continue antibiotics
   Possible etiologies of hypotension include poor PO intake and
   hypovolemia (as supported by history) or sepsis from a Pneumonia as
   supported by elevated WBC and radiographic findings.  Levaquin already
   administed in ED and she is on her 3rd Liter of NS at the time of this
   note.  Non-invasive blood pressures difficult to obtain due to
   tremulousness. She is making ~ 20mL urine per hour.  Other
   possibilities include recent MI or possible PE or obstructing renal
   stone causing pyelonephritis.
   - Broaden antibiotic coverage to Vanc/Cefepime now, renally dosed.
   Cipro to start in 48 hours
   - Rule out Flu with DFA; precautions
   - Sputum cultures
   - Continue NS to urine output and goal SBP >100; MAP>65
   - Monitor BPs this AM, place arterial line (technically challenging
   given tremor) if monitoring becomes difficult or BPs remain low
   - Regular heart healthy diet
   - Hold metoprolol, Lisinopril and Lasix & amiodarone
   - Start heparin gtt, LENIs, VQ Scan
   - Echo
   - Renal U/S
   2. (HC vs. Hospital Acquired) Pneumonia: The patient has radiographic
   evidence of a RLL PNA, HAP versus HCAP given history with associated
   left sided pleuritic pain.  She denies cough or fever.
   - Vanc/Cefepime/Cipro as above
   - ABG to monitor respiratory status although she is satting well and
   not dyspneic
   3. Delirium with tremulousness: The patient has developed waxing and
   [**Doctor Last Name 533**] mental status in the past 24 hours per family report.  She has
   also developed new tremor at this time.  Her tremulousness can be due
   to new medications (Compazine) or neurontin overdose in the setting
   over worsening renal failure.  A possible neurontin overdose could also
   explain her worsening nausea.
   - Treat underlying infection as above
   - Hold compazine and neurontin
   4. Acute on Chronic Renal failure: The patient's Cr is elevated to 2.8
   with a baseline of 1.1-1.2, still elevated based on her size, weight
   and age.  Likely causes include pre-renal from poor PO intake or ATN
   from hypotension.  Worsening renal failure and subsequent neurontin
   overdose could also synergistically cause her renal failure.
   - Fluid rescussitation, PO Intake
   - [**Hospital1 7**] electrolyte monitoring
   - Repeat U/A with electrolytes and Urea
   - Renally dose meds
   - Hold Lisinopril and Lasix
   5. Anemia: A pre-operative baseline, but worriesome for
   hemoconcentration. Guaiac negative, no signs of bleeding or hemolysis
   given normal LFTs, but thrombocytosis concerning. Normal B12 in
   [**Month (only) 539**]
   - Repeat Hct today
   - Smear, Retic count, iron studies, b12 and folate
   - Type and screen; blood consent
   6. Thrombocytosis: The patient's thrombocytosis could be reactive from
   bleeding/anemia as above; essential or hemoconcentrational.
   - Repeat platelet count
   - Investigate anemia as above, monitor for bleeding
   7. s/p CABG: Complicated by postop atrial fibrillation, currently in
   Sinus. QTc 438.  Elevated Troponin difficult to interpret given renal
   failure; CK elevated from hemolysis
   - Repeat Troponin
   - Hold Amiodarone given hypotension
   - Appreciate CSurg wound care recs
   - Continue ASA, Statin
   8. Arthritis: Patient with chronic pain
   - Tylenol PRN add Tramadol PRN if pain not well controlled
   9. GERD: Continue Omeprazole
   10. Glaucoma: Continue Latanoprost
   FEN: No IVF, Vitamin D, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient & Daughter [**Known firstname **] [**Last Name (NamePattern1) 1936**] ([**Telephone/Fax (1) 11582**])
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-10-9**] 09:45 AM
   18 Gauge - [**2153-10-9**] 09:45 AM
   Arterial Line - [**2153-10-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-10-10 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mental status changes, tremor and renal failure
   24 Hour Events:
 ARTERIAL LINE - START [**2153-10-9**] 05:00 PM
 NUCLEAR MEDICINE - At [**2153-10-9**] 06:00 PM
 ULTRASOUND - At [**2153-10-9**] 09:00 PM renal and lenis
   Allergies:
   Amlodipine
   edema;
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-9**] 10:00 AM
   Infusions:
   Heparin Sodium - 600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2153-10-10**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-10**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 85 (72 - 88) bpm
   BP: 127/48(79) {84/30(50) - 127/62(79)} mmHg
   RR: 20 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,184 mL
                                                                    208 mL
   PO:
                                                                    250 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,934 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                    575 mL
                                                                    490 mL
   Urine:
                                                                    210 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,609 mL
                                                                   -282 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   393 K/uL
   9.0 g/dL
   95 mg/dL
   2.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   41 mg/dL
   99 mEq/L
   133 mEq/L
   26.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2153-10-9**]  12:27 PM
   WBC
   8.8
   Hct
   26.7
   Plt
   393
   Cr
   2.5
   TropT
   0.06
   Glucose
   95
   Other labs: PT / PTT / INR:12.8/44.1/1.1, CK / CKMB /
   Troponin-T:277/9/0.06, Ca++:7.8 mg/dL, Mg++:2.9 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: UA: few bacteria, 3-5 WBCs, hyaline casts.
   Imaging: [**10-9**] CXR: Right lower lobe pneumonia.
   [**10-9**] renal u/s: no hydro or stone.
   [**10-9**] LENIs: negative
   [**10-9**] V/Q scan: undeterminate
   [**10-9**] Echo: RV normal
   Microbiology: [**10-9**] flu swab negative
   [**10-9**] urine cx pending
   [**10-9**] blood cx pending
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old lady with hypotension and radiographic evidence of
   pneumonia now two days out from rehab after a CABG. She is comfortable
   at this time.
   1. Hypotension: Possible etiologies of hypotension include poor PO
   intake and hypovolemia (as supported by history) or sepsis from a
   Pneumonia as supported by elevated WBC and radiographic findings.
   Levaquin already administed in ED and she is on her 3rd Liter of NS at
   the time of this note.  Non-invasive blood pressures difficult to
   obtain due to tremulousness. She is making ~ 20mL urine per hour.
   Other possibilities include recent MI or possible PE or obstructing
   renal stone causing pyelonephritis.
   - Broaden antibiotic coverage to Vanc/Cefepime now, renally dosed.
   Cipro to start in 48 hours
   - Rule out Flu with DFA; precautions
   - Sputum cultures
   - Continue NS to urine output and goal SBP >100; MAP>65
   - Monitor BPs this AM, place arterial line (technically challenging
   given tremor) if monitoring becomes difficult or BPs remain low
   - Regular heart healthy diet
   - Hold metoprolol, Lisinopril and Lasix & amiodarone
   - Start heparin gtt, LENIs, VQ Scan
   - Echo
   - Renal U/S
   2. (HC vs. Hospital Acquired) Pneumonia: The patient has radiographic
   evidence of a RLL PNA, HAP versus HCAP given history with associated
   left sided pleuritic pain.  She denies cough or fever.
   - Vanc/Cefepime/Cipro as above
   - ABG to monitor respiratory status although she is satting well and
   not dyspneic
   3. Delirium with tremulousness: The patient has developed waxing and
   [**Doctor Last Name 533**] mental status in the past 24 hours per family report.  She has
   also developed new tremor at this time.  Her tremulousness can be due
   to new medications (Compazine) or neurontin overdose in the setting
   over worsening renal failure.  A possible neurontin overdose could also
   explain her worsening nausea.
   - Treat underlying infection as above
   - Hold compazine and neurontin
   4. Acute on Chronic Renal failure: The patient's Cr is elevated to 2.8
   with a baseline of 1.1-1.2, still elevated based on her size, weight
   and age.  Likely causes include pre-renal from poor PO intake or ATN
   from hypotension.  Worsening renal failure and subsequent neurontin
   overdose could also synergistically cause her renal failure.
   - Fluid rescussitation, PO Intake
   - [**Hospital1 7**] electrolyte monitoring
   - Repeat U/A with electrolytes and Urea
   - Renally dose meds
   - Hold Lisinopril and Lasix
   5. Anemia: A pre-operative baseline, but worriesome for
   hemoconcentration. Guaiac negative, no signs of bleeding or hemolysis
   given normal LFTs, but thrombocytosis concerning. Normal B12 in
   [**Month (only) 539**]
   - Repeat Hct today
   - Smear, Retic count, iron studies, b12 and folate
   - Type and screen; blood consent
   6. Thrombocytosis: The patient's thrombocytosis could be reactive from
   bleeding/anemia as above; essential or hemoconcentrational.
   - Repeat platelet count
   - Investigate anemia as above, monitor for bleeding
   7. s/p CABG: Complicated by postop atrial fibrillation, currently in
   Sinus. QTc 438.  Elevated Troponin difficult to interpret given renal
   failure; CK elevated from hemolysis
   - Repeat Troponin
   - Hold Amiodarone given hypotension
   - Appreciate CSurg wound care recs
   - Continue ASA, Statin
   8. Arthritis: Patient with chronic pain
   - Tylenol PRN add Tramadol PRN if pain not well controlled
   9. GERD: Continue Omeprazole
   10. Glaucoma: Continue Latanoprost
   FEN: No IVF, Vitamin D, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with patient)
   Communication: Patient & Daughter [**Known firstname **] [**Last Name (NamePattern1) 1936**] ([**Telephone/Fax (1) 11582**])
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-10-9**] 09:45 AM
   18 Gauge - [**2153-10-9**] 09:45 AM
   Arterial Line - [**2153-10-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-10-11 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-10-10**] 06:02 PM
 CALLED OUT
   -heparin drip stopped
   -cipro to start tomorrow
   -f/u induced sputum
   -EKG
   -vanc trough in am
   - CT [**Doctor First Name 213**] w/ only wound recs
   -speech f/u
   Allergies:
   Amlodipine
   edema;
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-9**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2153-10-10**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-11**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 87 (75 - 101) bpm
   BP: 154/65(83) {101/39(57) - 158/74(142)} mmHg
   RR: 20 (18 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    620 mL
                  PO:
                                                                    320 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    510 mL
   Urine:
                                                                  1,470 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -850 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Initially confused when awoken, thinking she is in rehab, but later
   alert and oriented x3 but mildly confused.  Her tremor is improved
   though still present.  Heart sounds regular.  Lungs clear, w/ pain on
   deep inspiration.  Abdomen, soft, NTND.  No edema or calf pain.
   Labs / Radiology
   490 K/uL
   9.4 g/dL
   70 mg/dL
   1.7 mg/dL
   24 mEq/L
   3.9 mEq/L
   33 mg/dL
   105 mEq/L
   137 mEq/L
   28.7 %
   6.9 K/uL
        [image002.jpg]
                            [**2153-10-9**]  12:27 PM
                            [**2153-10-10**]  05:52 AM
                            [**2153-10-11**]  06:35 AM
   WBC
   8.8
   7.7
   6.9
   Hct
   26.7
   27.1
   28.7
   Plt
   393
   419
   490
   Cr
   2.5
   1.7
   TropT
   0.06
   Glucose
   95
   70
   Other labs: PT / PTT / INR:12.8/38.3/1.1, CK / CKMB /
   Troponin-T:277/9/0.06, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.2 mg/dL
   Microbiology: Sputum: not done
   Blood cx: pending
   Urine cx: negative
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old lady with hypotension and radiographic evidence of
   pneumonia now two days out from rehab after a CABG. She is comfortable
   at this time.
   1. Hypotension: Has not required pressors.  Etiology is likely
   hypovolemia vs sepsis from pneumonia.  Hypovolemia seems most likely at
   this time.  I am reassured that she does not have a PE based on
   indeterminate V/Q scan, negative echo and negative LENI
s, so we can
   stop the heparin.  While ideally we would to a CTA chest, her impaired
   renal function makes that risky.  She appears euvolemic now and
   presumably remains below her baseline blood pressure (on metoprolol and
   lisinopril at home), which may still be due to infection.  However her
   urine output and creatinine have improved, which is reassuring.  We
   will monitor closely through the day.
   - stop heprin
   - continue antibiotics for pneumonia as below
   - Try to correlate non-invasive BPs with arterial line.  If she can be
   monitored with cuff she can have the a-line out and go to the floor.
   - Hold metoprolol and lisinopril.
   2. (HC vs. Hospital Acquired) Pneumonia: The patient has radiographic
   evidence of a RLL PNA, HAP versus HCAP given history with associated
   left sided pleuritic pain.  She denies cough or fever.  We can treat
   with a seven-day course of antibiotics.  We will try to an induced
   sputum to obtain cultures to narrow coverage.
   - Vanc/Cefepime/Cipro for 7 day course.  Hopefully we can narrow based
   on sputum culture.  She has been MRSA positive in the past, so she will
   likely need vanco for all 7 days unless we can grow an organism.
   3. Delirium with tremulousness: The patient has developed waxing and
   [**Doctor Last Name 533**] mental status in the past 24 hours per family report.  She has
   also developed new tremor at this time.  Toxicology attending agrees
   that picture could be due to neurontin toxicity, and her improved exam
   today would support that.
   - Talk to family today about whether she is approaching her baseline.
   - PT consult to assess risk for falls
   - Hold compazine and neurontin
   4. Acute on Chronic Renal failure: Creatinine improved this morning to
   1.7 from 2.8 on admission.  FENa calculated at 0.2%, supporting simple
   prerenal etiology and not ATN.  We will continue to trend towards
   baseline, with further work-up held unless she does not improve.
   - Euvolemic now, should be able to self-regulate with PO intake.
   - Trend Cr
   - Continue to renally dose meds
   - Hold Lisinopril and Lasix.  [**Month (only) 51**] require reduced lasix dose on
   discharge.
   5. Anemia: Patient is stably anemic with fluid resuscitation, making
   hemoconcentration unlikely. Guaiac negative, no signs of bleeding or
   hemolysis given normal LFTs. Retic count is depressed.  B12 and folate
   normal.  Iron studies suggest anemia of chronic disease.  No further
   work-up at this time.
   - daily Hct while in hospital with transfusion for Hct<21.
   6. s/p CABG: Complicated by postop atrial fibrillation, currently in
   Sinus. QTc 438.  Elevated Troponin difficult to interpret given renal
   failure; CK elevated from hemolysis
   - Repeat Troponin
   - Hold Amiodarone given hypotension
   - Appreciate CSurg wound care recs
   - Continue ASA, Statin
   8. Arthritis: Patient with chronic pain
   - Tylenol PRN add Tramadol PRN if pain not well controlled
   9. GERD: Continue Omeprazole
   10. Glaucoma: Continue Latanoprost
   FEN: No further IVF, replete lytes PRN, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals and a-line.  A-line can be pulled if cuff pressures
   correlate.
   Code:  Full (discussed with patient)
   Communication: Patient & Daughter [**Known firstname **] [**Last Name (NamePattern1) 1936**] ([**Telephone/Fax (1) 11582**])
   Disposition: To floor today early if cuff pressures correlate, later in
   day if pressures are stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2153-10-9**] 09:45 AM
   18 Gauge - [**2153-10-9**] 09:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2153-10-11 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Pneumonia
   24 Hour Events:
 ARTERIAL LINE - STOP [**2153-10-10**] 06:02 PM
 CALLED OUT
   -heparin drip stopped
   -cipro to start tomorrow
   -induced sputum not done
   - CT [**Doctor First Name 213**] w/ only wound recs
   Allergies:
   Amlodipine
   edema;
   Last dose of Antibiotics:
   Vancomycin - [**2153-10-9**] 10:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2153-10-10**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-10-11**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.6
C (97.8
   HR: 87 (75 - 101) bpm
   BP: 154/65(83) {101/39(57) - 158/74(142)} mmHg
   RR: 20 (18 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    620 mL
                  PO:
                                                                    320 mL
                  TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    510 mL
   Urine:
                                                                  1,470 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -850 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Initially confused when awoken, thinking she is in rehab, but later
   alert and oriented x3 but mildly confused.  Her tremor is improved
   though still present.  Heart sounds regular.  Lungs clear, w/ pain on
   deep inspiration.  Abdomen, soft, NTND.  No edema or calf pain.
   Labs / Radiology
   490 K/uL
   9.4 g/dL
   100 mg/dL
   1.1 mg/dL
   24 mEq/L
   4.2 mEq/L
   21 mg/dL
   106 mEq/L
   139 mEq/L
   28.7 %
   6.9 K/uL
        [image002.jpg]
                            [**2153-10-9**]  12:27 PM
                            [**2153-10-10**]  05:52 AM
                            [**2153-10-11**]  06:35 AM
   WBC
   8.8
   7.7
   6.9
   Hct
   26.7
   27.1
   28.7
   Plt
   393
   419
   490
   Cr
   2.5
   1.7
   TropT
   0.06
   Glucose
   95
   70
   Other labs: PT / PTT / INR:12.8/38.3/1.1, CK / CKMB /
   Troponin-T:277/9/0.06, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Vanco 4.3
   Microbiology: Sputum: not done
   Blood cx: pending
   Urine cx: negative
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
 PNEUMONIA, OTHER
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   An 84 year old lady with hypotension and radiographic evidence of
   pneumonia now two days out from rehab after a CABG. She is comfortable
   at this time but is staying in the ICU as there are no hospital beds
   available.
   1. Health-care associated Pneumonia: The patient has radiographic
   evidence of a RLL PNA, HAP versus HCAP given history with associated
   right sided pleuritic pain.  She denies cough or fever.  She will
   require a seven-day course of antibiotics including vancomycin, so she
   will require IV access.
   - Vanc/Cefepime/Cipro for 7 day course.  We will increase dosing today
   based on improved renal function and check a vancomycin trough in the
   morning.
   - We will have her assessed for PICC placement so she can possibly go
   to rehab.
   2. Hypotension: Her blood pressures have improved, either because of
   treatment of her pneumonia, clearance of gabapentin or fluid
   resuscitation.  She appears to have difficulty drinking water because
   of her arthritis, but we will encourage PO intake as she has been
   negative for two days and was dehydrated on admission.  She is
   beginning to become hypertensive, but we will hold her home
   antihypertensives until we can be sure she is stable.
   - Continue to hold metoprolol and lisinopril.  Restart short-acting
   metoprolol if she is hypertensive.
   3. Delirium with tremulousness: She continues to improve.  Her symptoms
   were presumably due to acute infection and gabapentin overload.
   - PT consult to assess risk for falls and evaluate whether she should
   go home or to rehab.
   - Hold compazine and neurontin and talk to PCP about these medication
   changes.
   4. Acute on Chronic Renal failure: Creatinine improved this morning to
   1.1 from 2.8 on admission.  Appears to have been pre-renal.  No further
   work-up for now.
   - Encourage PO intake.
   - Take-out foley catheter.
   - Hold Lisinopril and Lasix.  [**Month (only) 51**] require reduced lasix dose on
   discharge.
   5. Anemia: Patient is stably anemic with fluid resuscitation, making
   hemoconcentration unlikely. Guaiac negative, no signs of bleeding or
   hemolysis given normal LFTs. Retic count is depressed.  B12 and folate
   normal.  Iron studies suggest anemia of chronic disease.  No further
   work-up at this time.
   - daily Hct while in hospital with transfusion for Hct<21.
   6. s/p CABG: Complicated by postop atrial fibrillation, currently in
   Sinus. QTc 438.  Elevated Troponin difficult to interpret given renal
   failure.  Had been on amiodarone for peri-operative A-fib.  We will
   restart amiodarone and defer to her out-patient cardiologist to decide
   the course.
   - Restart amiodarone
   - Appreciate CSurg wound care recs
   - Continue ASA, Statin
   8. Arthritis: Patient with chronic pain
   - Tylenol PRN add Tramadol PRN if pain not well controlled
   9. GERD: Continue Omeprazole
   10. Glaucoma: Continue Latanoprost
   FEN: No further IVF, replete lytes PRN, regular diet
   Prophylaxis: Subutaneous heparin now that IV heparin stopped.
   Access: PIVs.
   Code:  Full Code
   Communication: Patient & Daughter [**Known firstname **] [**Last Name (NamePattern1) 1936**] ([**Telephone/Fax (1) 11582**])
   Disposition: Called-out to floor.